US07605266B2
Preparation of N′-{4-[1-ethyl-4-(2-{3-[2-(1-pyrrolidinyl)ethyl]phenyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}-N,N-dimethylurea
To a stirred solution of N′-[4-(1-ethyl-4-{2-[3-(2-hydroxyethyl)phenyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-pyrazol-3-yl)phenyl]-N,N-dimethylurea (210 mg, 0.42 mMol) in CH2Cl2 (15 mL) was added at 0° C. Et3N (120 uL, 0.86 mmol) and methanesulfonyl chloride (40 uL, 0.52 mmol). After stirring for 3 h, pyrrolidine (2 mL, 24 mmol) was added. The reaction was allowed to warm to RT, stirred for 18 h, and evaporated to dryness under vacuum. Purification by Gilson HPLC provided the title compound (25%) as a pale yellow solid. ESMS [M+H]+: 548.4.

reactant | N′-[4-(1-ethyl-4-{2-[3-(2-hydroxyethyl)phenyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-pyrazol-3-yl)phenyl]-N,N-dimethylurea | 0.42 mMol, 210 mg | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC(=C2)C2=CC(=CC=C2)CCO)C2=CC=C(C=C2)NC(N(C)C)=O | C29H30N6O2
reactant | Et3N | 0.86 mmol, 120 uL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.52 mmol, 40 uL | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyrrolidine | 24 mmol, 2 mL | N1CCCC1 | C4H9N
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | N′-{4-[1-ethyl-4-(2-{3-[2-(1-pyrrolidinyl)ethyl]phenyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}-N,N-dimethylurea | 25% | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC(=C2)C2=CC(=CC=C2)CCN2CCCC2)C2=CC=C(C=C2)NC(N(C)C)=O | C33H37N7O
